US03951640
Preparation of N-(2-t-Butyl-1,3,4-thiadiazol-5-yl)-N'-(1,3-dioxolan-2-ylmethyl)-N'-ethylurea
2-t-Butyl-1,3,4-thiadiazol-5-yl isocyanate dimer (3grams) and a solution of N-(1,3-dioxolan-2-ylmethyl)-N-ethylamine (2 grams) in benzene (10 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture is warmed on a steam bath with stirring for a period of about 1 hour. After this time the mixture is stripped of solvent under reduced pressure to yield a solid residue. The residue is recrystallized to yield the desired product N-(2-t-butyl-1,3,4-thiadiazol-5-yl) -N'-(1,3-dioxolan-2-ylmethyl)-N'-ethylurea.

reactant | 2-t-Butyl-1,3,4-thiadiazol-5-yl isocyanate | C(C)(C)(C)C=1SC(=NN1)N=C=O | C7H9N3OS
reactant | N-(1,3-dioxolan-2-ylmethyl)-N-ethylamine | 2 grams | O1C(OCC1)CNCC | C6H13NO2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | N-(2-t-butyl-1,3,4-thiadiazol-5-yl) -N'-(1,3-dioxolan-2-ylmethyl)-N'-ethylurea | C(C)(C)(C)C=1SC(=NN1)NC(=O)N(CC)CC1OCCO1 | C13H22N4O3S
